US06613942B1
3-Chloro-4-hydroxy-benzoic Acid {4-[2-(1,2,3,4-Tetrahydro-isoquinolin-2-yl)-ethoxy]-8-methoxy-naphthalen-1-ylmethylene}-hydrazide
The above resin bound 3-chloro-4-hydroxybenzoic acid hydrazide (2 g, 1.8 mmol) was swelled in DMF (25 mL) for 30 minutes and the above 4-(2-bromoethoxy)-8-methoxynaphthalene-1-carbaldehyde (1.7 g, 5.4 mmol) was added followed by triethyl orthoformate (1.2 mL) and the resulting mixture was shaken at room temperature for 16 hours. The mixture was filtered and the resin was successively washed with DMF (3×25 mL), dichloromethane (4×25 mL) and N-methyl pyrrolidin-2-one (NMP) (2×25 mL). NMP (25 mL) was added followed by potassium iodide (0.6 g) and 1,2,3,4-tetrahydro-isoquinoline (2.25 mL, 18 mmol) and the resulting mixture was shaken at room temperature for 16 hours. The mixture was filtered and the resin was successively washed with NMP (2×25 mL) and dichloromethane (6×25 mL). The compound was cleaved off the resin by addition of 50% TFA in dichloromethane (30 mL) and shaking at room temperature for 1 hour. After filtration followed by extraction of the resin with dichloromethane (2×30 mL) the combined filtrates were concentrated in vacuo. The residue was partitioned between ethyl acetate (80 mL) and saturated sodium hydrogen carbonate (100 mL). The aqueous phase was extracted with ethyl acetate (2×80 mL) and the combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography on silica gel (200 mL) eluting with a mixture of dichloromethane and methanol (9:1). This afforded 217 mg of the title compound.

reactant | 3-chloro-4-hydroxybenzoic acid hydrazide | 1.8 mmol, 2 g | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 4-(2-bromoethoxy)-8-methoxynaphthalene-1-carbaldehyde | 5.4 mmol, 1.7 g | BrCCOC1=CC=C(C2=C(C=CC=C12)OC)C=O | C14H13BrO3
reactant | triethyl orthoformate | 1.2 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | potassium iodide | 0.6 g | [I-].[K+]
reactant | 1,2,3,4-tetrahydro-isoquinoline | 18 mmol, 2.25 mL | C1NCCC2=CC=CC=C12 | C9H11N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-4-hydroxy-benzoic Acid {4-[2-(1,2,3,4-Tetrahydro-isoquinolin-2-yl)-ethoxy]-8-methoxy-naphthalen-1-ylmethylene}-hydrazide | C1N(CCC2=CC=CC=C12)CCOC1=CC=C(C2=C(C=CC=C12)OC)C=NNC(C1=CC(=C(C=C1)O)Cl)=O | C30H28ClN3O4
